US09388189B2
(S)—N-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.17 mmol) was treated with N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide (132 mg, 0.4 mmol), sodium carbonate (43 mg, 0.41 mmols) and bis(triphenylphosphine)palladium(II) dichloride (12 mg, 0.02 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to give 83 mg (68% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 100 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide | 0.4 mmol, 132 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | sodium carbonate | 0.41 mmols, 43 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.02 mmol, 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)—N-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide | 83 mg, 68% yield | COC1=NC=C(C=C1NS(=O)(=O)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H41N9O5SSi
